US05272270
(1S,2R)-1,2-bis(3'-Benzyloxy-4'-methoxyphenyl)-2-[(2",2"-dimethoxyethyl)amino]-ethanol
Mixture: 187.2 g (0.4 mol) of rel-(S,S)-3,3'-dibenzyloxy-4,4'-dimethoxystilbene oxide, 210 g (2 mol) of aminoacetaldehyde dimethyl acetal, 5 l of dichloromethane, 3 l of ethanol.

reactant | rel-(S,S)-3,3'-dibenzyloxy-4,4'-dimethoxystilbene oxide | 0.4 mol, 187.2 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1OC)[C@H]1[C@H](C2=CC(=C(C=C2)OC)OCC2=CC=CC=C2)O1 | C30H28O5
reactant | aminoacetaldehyde dimethyl acetal | 2 mol, 210 g | COC(CN)OC | C4H11NO2
reactant | dichloromethane | 5 l | ClCCl | CH2Cl2
solvent | ethanol | 3 l | C(C)O | C2H6O
product | (1S,2R)-1,2-bis(3'-Benzyloxy-4'-methoxyphenyl)-2-[(2",2"-dimethoxyethyl)amino]-ethanol | C(C1=CC=CC=C1)OC=1C=C(C=CC1OC)[C@@H]([C@H](NCC(OC)OC)C1=CC(=C(C=C1)OC)OCC1=CC=CC=C1)O | C34H39NO7
